US09399661B2
Synthesis of (S)-3-((S)-2-((S)-2-aminopropanamido)-4-(methylthio)butanamido)-4-(((S)-1-carboxy-2-(1H-indol-3-yl)ethyl)amino)-4-oxobutanoic acid (AlaMetAspTrp)
The peptide (1 g) was then dissolved in trifluoroacetic acid (1.25 ml) and the mixture was stirred at 0° C. for 10 mins and allowed to warm to room temperature and stirred for a further 40 mins. The solvents were removed in vacuo. This was re-dissolved in DCM and washed with cold saturated NaHCO3 (10 ml). The organic layer was dried with Na2SO4 and the solvent removed in vacuo to give the deprotected peptide benzyl4-(3-(1H-indol-3-yl)-1-methoxy-1-oxopropan-2-ylamino)-3-((2S)-2-(2-aminopropanamido)-4-(methylthio)butanamido)-4-oxobutanoate as a dark yellow thick oil. 1H NMR 300 MHz δH(ppm): 1.49 (3H, t), 2.06 (2H, t), 2.20 (3H, s), 2.69(3H, dt), 2.90(1H, dd), 3.08 (1H, q), 3.29 (1H, td), 3.70 (3H, s) 3.75 (1H, q), 4.09 (1H, t), 4.29 (1H, t), 5.02 (1H, d), 5.10 (1H, t), 6.96 (2H, q), 7.15 (5H, sep), 7.30 (7H, m), 7.60 (1H, d), 8.40 (1H, d), 8.51 (1H, s); 13C NMR (75 MHz) δC: 15.18(S—CH3), 27.83(CH2—In), 29.78(CH2—S), 30.22(CH2—CH2S), 37.60(CH2—C═O), 50.74(CH—CH3), 51.15(CH3—COO), 51.45 (CH), 52.07(CH—CH2), 55.52(CH—CH2), 66.87(O—CH2—Bn), 108.99(In), 111.30(In), 118.72(In), 119.52(In), 122.16(In), 123.12(In), 127.02(Bn), 127.12(Bn), 127.47(In), 128.29(Bn), 128.58(Bn), 128.65(Bn), 136.13(Bn), 136.34(Bn), 166.62(C═O), 166.99(C═O), 167.29(C═O), 170.38(C═O), 170.67(C═O) ESI-MS calculated for C31H39N5O7SNa, 648.2470 found M+Na, 648.2482. AlanylMethionylaspartyl(benzyl)tryptophan methyl ester (0.5 g) was then dissolved in ethanol and Pd/C was added. The reaction mixture was then placed in a hydrogenator and shaken overnight. The mixture was filtered through celite and the filtrate was collected. The solvent was removed in vacuo and the residue material was dissolved in dichloromethane (5 ml) and cooled to 0° C. The peptide (0.5 g) was then dissolved in a mixture of methanol (3 ml) and 1M NaOH (3 ml) and stirred at RT for 1 hour. To this water (6 ml) was added and extracted with ether (6 ml). The aqueous phase was acidified to pH 3 with 3M citric acid. The resultant oil was extracted with ethyl acetate (2×10 ml). The combined extracts were dried over Na2SO4 to yield the free acid. 1H NMR (600 MHz) δH: 1.40 (3H, t), 1.87 (2H, m), 1.93 (3H, s), 2.34 (2H, q), 2.41 (1H, dd), 2.56 (1H, dd), 3.13 (1H, dd), 3.26 (1H, dd), 3.98 (1H, q), 4.25 (1H, q), 4.43 (1H, t), 4.49 (1H, q), 7.10 (1H, t), 7.14 (1H, s), 7.17 (3H, t), 7.43 (1H, d), 7.61 (1H, d)13C NMR (150 MHz)δC: 14.08 (S—CH3), 16.36 (—CH3), 29.17 (CH2CH2—S), 29.69 (CH2CH2—S), 38.33 (CH2—CO2H), 27.27 (CH2—In), 48.89 (CH—CH3), 52.62 (CHCH2—In), 51.47 (CHCH2CH2—S), 55.58 (CHCH2CO2H), 111.75 (arom), 118.70 (arom), 119.16 (arom), 121.71 (arom), 124.20 (arom), 127.34 (arom), 135.97 (arom), 147.32 (arom), 170.61 (CONH), 171.81 (CONH), 172.57 (CONH), 177.65 (CO2H), 177.90 (CO2H).

reactant | AlanylMethionylaspartyl(benzyl)tryptophan methyl ester | 0.5 g | COC([C@@H](N(CC1=CC=CC=C1)C([C@@H](NC([C@@H](NC([C@@H](N)C)=O)CCSC)=O)CC(O)=O)=O)CC1=CNC2=CC=CC=C12)=O | C31H39N5O7S
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (S)-3-((S)-2-((S)-2-aminopropanamido)-4-(methylthio)butanamido)-4-(((S)-1-carboxy-2-(1H-indol-3-yl)ethyl)amino)-4-oxobutanoic acid | N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CC(=O)O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CCSC)C | C23H31N5O7S
